US07468375B2
Step 3: 1-(4-Fluorobenzyl)-N-hydroxy-4-methoxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
The title compound was prepared by coupling of 1-(4-fluorobenzyl)-4-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid with N-methyl hydroxylamine hydrochloride in a manner similar to step 8 of example 1. 1H NMR (DMSO-d6) 6; 9.70 (s, 1H), 8.50 (s, 1H), 7.76 (s, 1H), 7.33 (m, 2H), 7.16 (d, 2H, J=8.9 Hz), 6.76 (s, 1H), 5.51 (s, 2H), 4.00 (s, 3H), 2.96 (s, 3H). LCMS (APCI, M+H+): 330.1. HRMS calcd for C17H17FN3O3 (M+H) 330.1249, found 330.1250. HPLC: 98% purity.

reactant | 1-(4-fluorobenzyl)-4-methoxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=CC=3C2=CN=C(C3OC)C(=O)O)C=C1 | C16H13FN2O3
reactant | N-methyl hydroxylamine hydrochloride | Cl.CNO
product | 1-(4-Fluorobenzyl)-N-hydroxy-4-methoxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=CC=C(CN2C=CC=3C2=CN=C(C3OC)C(=O)N(C)O)C=C1 | C17H16FN3O3
